US07307094B2
A mixture of 2-thiophen-3-ylbenzoxazole-4-carboxylic acid (78 mg, 0.32 mmol), 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride (86 mg, 0.38 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (86 mg, 0.45 mmol) and 1-hydroxybenzotriazole (122 mg, 0.90 mmol) in DMF (5 mL) was stirred for 10 min at room temperature, then DIPEA (0.26 mL, 1.6 mmol) was added. The resulting reaction mixture was stirred at room temperature overnight. The mixture was diluted with ethyl acetate (20 mL), and then washed with a saturated solution of sodium bicarbonate. The aqueous layer was further extracted with ethyl acetate (2×50 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 90:9:1 ethyl acetate/methanol/concentrated ammonium hydroxide) and then recrystallized from acetonitrile to afford N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-2-thiophen-3-ylbenzoxazole-4-carboxamide (51 mg, 41%) as an off-white solid: 1H NMR (500 MHz, CDCl3) δ 8.99 (d, J=7.0 Hz, 1H), 8.24 (d, J=1.5 Hz, 1H), 8.20 (d, J=7.5 Hz, 1H), 7.78 (d, J=5.0 Hz, 1H), 7.77 (d, J=7.5 Hz, 1H), 7.52-7.51 (m, 1H), 7.44 (t, J=7.5 Hz, 1H), 4.61-4.51 (m, 1H), 3.19-3.01 (m, 2H), 2.72-2.61 (m, 2H), 2.54 (s, 3H), 2.22-1.98 (m, 2H), 1.60-1.47 (m, 4H), 1.26-1.13 (m, 2H); MS (ESI+) m/z 382 (M+H); HPLC>99% (AUC), tR=13.40 min.

reactant | 2-thiophen-3-ylbenzoxazole-4-carboxylic acid | 0.32 mmol, 78 mg | S1C=C(C=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C12H7NO3S
reactant | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride | 0.38 mmol, 86 mg | Cl.Cl.NC1CC2CCCC(C1)N2C
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.45 mmol, 86 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.90 mmol, 122 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DIPEA | 1.6 mmol, 0.26 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-2-thiophen-3-ylbenzoxazole-4-carboxamide | 51 mg, 41% | CN1C2CC(CC1CCC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=CSC=C1 | C21H23N3O2S
